US06638929B2
A mixture of 25 g (0.21 mole) of 3-nitropropionic acid, 300 mL of absolute ethanol and 10 drops of concentrated sulfuric acid is refluxed overnight. The reaction mixture is evaporated, and the residue partitioned between water and ether. The ether layer is washed with water, aqueous sodium bicarbonate solution and brine, then dried over sodium sulfate. The ether is removed in vacuo and the product distilled as a clear liquid to provide 21.54 g (69%) of Ethyl 3-nitropropionate as a clear oil, b.p. 160-165° C. at 120 mm Hg.

reactant | 3-nitropropionic acid | 0.21 mole, 25 g | [N+](=O)([O-])CCC(=O)O | C3H5NO4
reactant | ethanol | 300 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | Ethyl 3-nitropropionate | 21.54 g, 69% | [N+](=O)([O-])CCC(=O)OCC | C5H9NO4
